US04695567
7-Methyl-7-ethoxycarbonyl-2-(2-pyrazinyl)-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one
5.0 g. (18.5 mmol) 3-methyl-3-ethoxycarbonyl-6-aminoindolin-2-one hydrochloride are suspended in 60 ml. methylene chloride and mixed with 12.5 ml. (90.4 mmol) triethylamine. 6.4 g. (45.2 mmol) pyrazine-2-carboxylic acid chloride are then added portionwise, while cooling with ice, and the reaction mixture is further stirred for 3 hours. The reaction mixture is evaporated, worked up with water, filtered off with suction and purified by column chromatography elution agent: methylene chloride/methanol 99:1 v/v). There are obtained 4.0 g. (65% of theory) of the title compound; m.p.

reactant | 3-methyl-3-ethoxycarbonyl-6-aminoindolin-2-one hydrochloride | 18.5 mmol | Cl.CC1(C(NC2=CC(=CC=C12)N)=O)C(=O)OCC
reactant | triethylamine | 90.4 mmol | C(C)N(CC)CC | C6H15N
reactant | pyrazine-2-carboxylic acid chloride | 45.2 mmol | N1=C(C=NC=C1)C(=O)Cl | C5H3ClN2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 7-Methyl-7-ethoxycarbonyl-2-(2-pyrazinyl)-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one | CC1(C(NC2=CC3=C(N=C(N3)C3=NC=CN=C3)C=C21)=O)C(=O)OCC | C17H15N5O3
